US04254116
10-Acetoxy-5,5-dimethyl-8-n-butyl-5H-[1]benzopyrano[3,4-d]pyridine is prepared by reacting 5,5-dimethyl-10-hydroxy-8-n-butyl-5H-[1]benzopyrano[3,4-d]pyridine and acetic anhydride in the presence of pyridine according to the method of Example 12.

reactant | 5,5-dimethyl-10-hydroxy-8-n-butyl-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)CCCC)O)C=2C1=CC=NC2)C | C18H21NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 10-Acetoxy-5,5-dimethyl-8-n-butyl-5H-[1]benzopyrano[3,4-d]pyridine | C(C)(=O)OC1=CC(=CC2=C1C=1C(=CC=NC1)C(O2)(C)C)CCCC | C20H23NO3
